US06087359
To a solution of N-[[4-[(4-methylphenyl)thio]-phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester, from Example 2a (2.4 g ,5.5 mmole) in DMF (50 ml) was added potassium carbonate (2.28 g, 16.5 mmole) and 4-(2-chloroethyl)morpholine hydrochloride (3.07 g, 16.5 mmole). After vigorously stirring at 60° C. for 18 hours, the reaction was worked up by adding water and extracting with ethyl acetate. The combined organic extracts were washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo to give an oil which was purified on silica gel eluting with 50/50 ethyl acetate/hexane to give N-[[4-[(4-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)-ethyl]-D-valine, 1,1-dimethylethyl ester (3.62 g, 100%): anal. calc'd for C28H40N2S2O5 : C, 61.28; H, 7.35; N, 5.10. Found: C, 61.12; H. 7.69; N, 4.91. HRMS MH+ calc'd for C28H40N2S2O5 : 548.2379, found: 548.2386.

reactant | N-[[4-[(4-methylphenyl)thio]-phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester | CC1=CC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C | C22H29NO4S2
reactant | potassium carbonate | 16.5 mmole, 2.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 16.5 mmole, 3.07 g | Cl.ClCCN1CCOCC1
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-[[4-[(4-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)-ethyl]-D-valine, 1,1-dimethylethyl ester | 3.62 g, 100% | CC1=CC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)OC(C)(C)C)CCN1CCOCC1 | C28H40N2O5S2
